US04943591
(Z)-N-[4-[3-[[6-[(Phenylmethyl)amino]hexyl]oxy]-1-propenyl]phenyl]-methanesulphonamide, hydrochloride
(Z)-N-[4-[3-[(6-Bromohexyl)oxy]-1-propenyl]phenyl]methanesulphonamide (2.0 g) was added to benzylamine (6 ml) at 125°, under nitrogen. The reaction mixture was stirred at 125° for 3 h, cooled to room temperature and added to 2N hydrochloric acid (50 ml) and water (20 ml). The resultant white solid was collected by filtration, washed in turn with 2N hydrochloric acid, water and ether then dried in vacuo at 50° to give the title compound as a white powder (1.0 g) m.p. 133°-134°.

reactant | (Z)-N-[4-[3-[(6-Bromohexyl)oxy]-1-propenyl]phenyl]methanesulphonamide | 2.0 g | BrCCCCCCOC\C=C/C1=CC=C(C=C1)NS(=O)(=O)C | C16H24BrNO3S
reactant | benzylamine | 6 ml | C(C1=CC=CC=C1)N | C7H9N
reactant | hydrochloric acid | 2N, 50 ml | Cl | ClH
solvent | water | 20 ml | O | H2O
product | (Z)-N-[4-[3-[[6-[(Phenylmethyl)amino]hexyl]oxy]-1-propenyl]phenyl]-methanesulphonamide, hydrochloride | 1.0 g | Cl.C1(=CC=CC=C1)CNCCCCCCOC\C=C/C1=CC=C(C=C1)NS(=O)(=O)C | InChI=1S/C23H32N2O3S.ClH/c1-29(26,27)25-23-15-13-21(14-16-23)12-9-19-28-18-8-3-2-7-17-24-20-22-10-5-4-6-11-22;/h4-6,9-16,24-25H,2-3,7-8,17-20H2,1H3;1H/b12-9-;
